### PR TITLE
Add coordinate-axis boosts in SL(2, ℂ)

### PR DESCRIPTION
**Pull request by nateabr**
Adds explicit `SL(2, ℂ)` lifts of boosts along the three coordinate axes, together with their Lorentz matrices, inverses, and conjugation relations.

### CODE REVIEW

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 1]
```diff
@@ -0,0 +1,375 @@
+/-
+Copyright (c) 2026 Joseph Tooby-Smith. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Joseph Tooby-Smith
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: Should add you and Jinzheng here

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 2]
```diff
@@ -0,0 +1,375 @@
...
+
+The `z`-axis lift is diagonal. The `x`- and `y`-axis lifts are the same family expressed in
+bases rotated toward the corresponding spatial axes.
+
+-/
+
+
+/-- The diagonal `SL(2,ℂ)` lift of the `z`-axis boost. For `t > 0`, its rapidity is
+`2 * log t`; replacing `t` by `t⁻¹` reverses the boost. -/
+noncomputable def boostZel (t : ℝ) (ht : t ≠ 0) : SL(2,ℂ) :=
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: I'm not sure what the `el` is meant to be. But maybe we should call this 
`boostAxisSU2` and give it an argument of `Fin 3`, instead of three separate definitions.

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 3]
```diff
@@ -0,0 +1,375 @@
...
+## B. Their Lorentz matrices
+
+The following definitions give the explicit Lorentz matrices of the three lifts. Their
+identification with the images under `Lorentz.SL2C.toLorentzGroup` uses Hermiticity and the
+trace pairing with the covariant Pauli basis.
+
+-/
+
+/-- The Lorentz matrix of `boostZel t`, mixing the time and `z` coordinates. -/
+noncomputable def boostMatZ (t : ℝ) : (Fin 1 ⊕ Fin 3) → (Fin 1 ⊕ Fin 3) → ℝ
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: Would actually call these `boostAxis` and give them an argument of `Fin 3`, and if possible define them as members of the `LorentzGroup`

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 4]
```diff
@@ -0,0 +1,375 @@
...
+
+## C. Their inverses
+
+Replacing the multiplicative parameter `t` by `t⁻¹` reverses an axis boost. We record this
+both at the level of the boost families and through their explicit matrix entries.
+
+-/
+
+/-- Inverting the `z`-axis boost replaces `t` by `t⁻¹`. -/
+lemma boostZel_inv (t : ℝ) (ht : t ≠ 0) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: Should be moved near their definition

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 5]
```diff
@@ -0,0 +1,375 @@
...
+  rw [← mul_inv, ← sq, sqrtTwo_sq]
+
+/-- The `SL(2,ℂ)` rotation carrying the `z`-axis to the `x`-axis. -/
+noncomputable def rotZX : SL(2,ℂ) :=
+  ⟨(((Real.sqrt 2 : ℝ) : ℂ))⁻¹ • !![1, -1; 1, 1], by
+    rw [Matrix.det_smul, Matrix.det_fin_two_of, Fintype.card_fin, inv_pow, sqrtTwo_sq]
+    norm_num⟩
+
+/-- The `SL(2,ℂ)` rotation carrying the `z`-axis to the `y`-axis. -/
+noncomputable def rotZY : SL(2,ℂ) :=
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: Should define a seperate file for Axis rotations

**Comment by nateabr** [comment]
Thank you for your comments! `el` was supposed to be element but that was not the best naming. I have addressed all your comments and they have made things much better. Let me know what you think. 

-awaiting-author

File: Physlib/Relativity/SL2C/AxisRotations.lean [hunk 6]
```diff
@@ -0,0 +1,116 @@
...
+          !![1, -Complex.I; -Complex.I, 1]) j k
+      | 2 => (1 : Matrix (Fin 2) (Fin 2) ℂ) j k := by
+  fin_cases i
+  all_goals
+    rw [Matrix.SpecialLinearGroup.SL2_inv_expl]
+    fin_cases j <;> fin_cases k <;> simp [rotationZToAxis]
+
+/-- Conjugating `diag(a, b)` by `rotationZToAxis i` transports its diagonal `z`-axis expression
+to the basis associated with axis `i`. -/
+lemma rotationZToAxis_mul_diagonal_mul_inv (i : Fin 3) (a b : ℂ) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/SL2C/AxisRotations.lean]: this can maybe be split into three separate lemmas, likewise with the above.

File: Physlib/Relativity/SL2C/AxisRotations.lean [hunk 7]
```diff
@@ -0,0 +1,116 @@
...
+- `rotationZToAxis_mul_diagonal_mul_inv`, their action on a diagonal matrix.
+-/
+
+@[expose] public section
+
+namespace Lorentz.SL2C
+
+open Matrix MatrixGroups
+
+private lemma sqrtTwo_sq : (((Real.sqrt 2 : ℝ) : ℂ)) ^ 2 = 2 := by
```
Comment (jstoobysmith) [inline Physlib/Relativity/SL2C/AxisRotations.lean]: Is this needed as a separate lemma? Can it just be included where needed

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 8]
```diff
@@ -0,0 +1,214 @@
...
+        field_simp
+        ring⟩
+  | 2, t, ht =>
+      ⟨!![(t : ℂ), 0; 0, (t : ℂ)⁻¹], by
+        have htc : (t : ℂ) ≠ 0 := Complex.ofReal_ne_zero.mpr ht
+        rw [Matrix.det_fin_two_of]
+        simp [mul_inv_cancel₀ htc]⟩
+
+/-- The matrix entries of an `SL(2,ℂ)` axis-boost lift. -/
+@[simp] lemma boostAxis_apply (i : Fin 3) (t : ℝ) (ht : t ≠ 0) (j k : Fin 2) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean]: These sorts of things with `match` on the RHS are probably best written as seperate lemmas.

**Comment by jstoobysmith** [comment]
awaiting-author

**Comment by nateabr** [comment]
Made the changes

-awaiting-author

File: Physlib/Relativity/LorentzGroup/Boosts/Axis.lean [hunk 9]
```diff
@@ -0,0 +1,219 @@
...
+namespace Lorentz.SL2C
+
+/-!
+
+## C. Axis conjugation
+
+-/
+
+/-- Every axis boost is obtained by conjugating the `z`-axis boost by `rotationZToAxis`. -/
+lemma boostAxis_eq_conj (i : Fin 3) (t : ℝ) (ht : t ≠ 0) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/LorentzGroup/Boosts/Axis.lean:146]: Move up to the first SL2C section? Would prevent you having to close and reopen namespaces

File: Physlib/Relativity/SL2C/Basic.lean [hunk 10]
```diff
@@ -203,6 +203,23 @@ lemma toSelfAdjointMap_pauliBasis (i : Fin 1 ⊕ Fin 3) :
   apply congrArg
   exact Eq.symm (minkowskiMatrix.dual_apply_minkowskiMatrix ((toLorentzGroup M).1) i j)
 
+/-- The matrix elements of the covering map through the trace pairing:
+  `L(M)_{l i} = ½ tr (σ'_l · M σ'_i M†)`. -/
+lemma toLorentzGroup_eq_trace (M : SL(2,ℂ)) (l i : Fin 1 ⊕ Fin 3) :
```
Comment (jstoobysmith) [inline Physlib/Relativity/SL2C/Basic.lean]: `i j` would be more conventional choice rather then `l i`.

**Comment by jstoobysmith** [comment]
awaiting-author

File: Physlib/Relativity/SL2C/Basic.lean (hunk 10 above)
Comment (nateabr) [reply Physlib/Relativity/SL2C/Basic.lean]: mhmm this is over-reliance on AI, will be more careful henceforth

**Comment by nateabr** [comment]
made the changes 

-awaiting-author

**Review by jstoobysmith — APPROVED** [review]
This looks good - approved
